US09170487B2
A four-neck flask having an internal capacity of 300 mL and fitted with a stirrer, a dropping funnel and a thermometer was charged with 150 g (2.20 mol) of furan and 15.0 g of zinc iodide, and 41.5 g (0.34 mol) of methyl vinylsulfonate was added dropwise from the dropping funnel at a temperature of 25 to 27° C. Stirring was continued at the same temperature for two days, and the reaction mixture was then transferred to a 1 L separating funnel. Following washing twice with 300 mL samples of water, the unreacted furan was removed by distillation under reduced pressure, yielding 22.0 g of methyl 7-oxabicyclo[2.2.1]hept-2-ene-5-sulfonate.

reactant | furan | 2.20 mol, 150 g | O1C=CC=C1 | C4H4O
reactant | methyl vinylsulfonate | 0.34 mol, 41.5 g | C(=C)S(=O)(=O)OC | C3H6O3S
catalyst | zinc iodide | 15.0 g | [I-].[Zn+2].[I-]
product | methyl 7-oxabicyclo[2.2.1]hept-2-ene-5-sulfonate | 22.0 g | C12C=CC(C(C1)S(=O)(=O)OC)O2 | C7H10O4S
